US07812022B2
Step G: 2,6-Difluoro-N-{2-fluoro-5-[3-(2-{[2-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-isoquinolinyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide
To a solution of N-{5-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2,6-difluorobenzamide (162 mg, 0.34 mmol) in 1,4-dioxane (6 mL) and 2-propanol (2 mL) was added 7-amino-N-trifluoroacetyl tetrahydroisoquinoline (165 mg, 0.68 mmol) followed by catalytic 12M HCl. After heating overnight at 80° C., reaction was quenched with saturated NaHCO3 (25 mL), solvent removed by rotary evaporation, aqueous layer extracted with DCM (25 mL), organic layer concentrated, and purified by column chromatography (5-50% EtOAc in hexanes) to provide the product (109 mg, 47%) as an off-white solid. ESIMS (M+H)+=688.

reactant | N-{5-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2,6-difluorobenzamide | 0.34 mmol, 162 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(C2)NC(C2=C(C=CC=C2F)F)=O)F | C24H13ClF3N5O
reactant | 7-amino-N-trifluoroacetyl tetrahydroisoquinoline | 0.68 mmol, 165 mg | NC1=CCC2CCN(CC2=C1)C(C(F)(F)F)=O | C11H13F3N2O
reactant | HCl | 12M | Cl | ClH
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | 2,6-Difluoro-N-{2-fluoro-5-[3-(2-{[2-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-isoquinolinyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | 109 mg, 47% | FC1=C(C(=O)NC2=C(C=CC(=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC=C3CCN(CC3=C2)C(C(F)(F)F)=O)F)C(=CC=C1)F | C35H23F6N7O2
